US03950353
Also, reacting 5-[(2-aminoethyl)thiomethyl]-4-methyloxazole with ethyl isothiocyanate by the procedure of Example 1 gives N-ethyl-N'-[2-((4-methyl-5-oxazolyl)-methylthio)ethyl]thiourea.

reactant | 5-[(2-aminoethyl)thiomethyl]-4-methyloxazole | NCCSCC1=C(N=CO1)C | C7H12N2OS
reactant | ethyl isothiocyanate | C(C)N=C=S | C3H5NS
product | N-ethyl-N'-[2-((4-methyl-5-oxazolyl)-methylthio)ethyl]thiourea | C(C)NC(=S)NCCSCC1=C(N=CO1)C | C10H17N3OS2
